US05866573
Step B: 1-Allyl-3,5-dichloro-6-methylpyrazinone
A stirred mixture of oxalyl chloride (30.5 ml, 0.35 mol) and α-(allylamino)-propionitrile hydrochloride (10.26 g, 70 mmol) in o-dichlorobenzene (100 ml) was heated to 100° C. for 15 h. The solvent was evaporated in vacuo and the residual black oil was purified by flash column chromatography on silica (eluting with 30% ethyl acetate hexanes) to give the title compound as a tan crystalline solid:

reactant | oxalyl chloride | 0.35 mol, 30.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | α-(allylamino)-propionitrile hydrochloride | 70 mmol, 10.26 g | Cl.C(C=C)NC(C#N)C
solvent | o-dichlorobenzene | 100 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-Allyl-3,5-dichloro-6-methylpyrazinone | C(C=C)N1C(C(=NC(=C1C)Cl)Cl)=O | C8H8Cl2N2O
